US04948893
Preparation of 7 N,N Diethylamino-3 {3 [6 (N,N diethylamino)benzo[b]furanyl]acryloyl}coumarin, Dye 3, Table I
To 25 mL of absolute ethanol in a 50 mL round-bottomed flask was added 217 mg (1 mmol) of 6 (N,N diethylamino) 2 formylbenzo[b]furan and 259 mg (lmmol) of 3 acetyl 7 (N,N diethylamino)coumarin. After refluxing for several minutes to dissolve the solids, 100 mg of piperidine was added and reflux was continued for one hour. The solution was allowed to cool to room temperature and then placed in a freezer overnight. The solid was filtered and recrystallized from 50 mL of ethanol to yield the product as deep red needles. Field desorption was spectrum: m/e 458 (M+); m.p. 169°-171° C.

reactant | (N,N diethylamino) 2 formylbenzo[b]furan | C(C)N(CC)C=1C2=C(OC1C=O)C=CC=C2 | C13H15NO2
reactant | acetyl 7 (N,N diethylamino)coumarin | C(C)(=O)C=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O | C15H17NO3
reactant | piperidine | 100 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N,N Diethylamino-3 {3 [6 (N,N diethylamino)benzo[b]furanyl]acryloyl}coumarin | C(C)N(CC)C1=C(C(OC2=CC=CC=C12)=O)C(C=CC1=CC2=C(O1)C=C(C=C2)N(CC)CC)=O | C28H30N2O4
